US06686381B2
(5-Isothiocyanato-pentyl)-carbamic Acid tert-Butyl Ester
To a solution of 2 g (9.9 mmol) (5-Amino-pentyl)-carbamic acid tert-butyl ester in 40 ml THF at 0° C. was added 896 μl (14.83 mmol) CS2 and allowed to stir at room temperature for 14 h. 623 mg (14.83 mmol) cyanamide and 4 drops NEt3 was added and the mixture was heated to 4° C. for 3 h. The mixture was extracted with diethyl ether and the combined organic layers were dried with MgSO4. After filtration and removal of the volatiles the residue was purified by flash column chromatography on silica eluting with ethyl acetate/cyclohexane 1:1. The evaporation of the product fractions yielded 2.24 g (93%) of the title compound.

reactant | (5-Amino-pentyl)-carbamic acid tert-butyl ester | 9.9 mmol, 2 g | C(C)(C)(C)OC(NCCCCCN)=O | C10H22N2O2
reactant | CS2 | 14.83 mmol, 896 μl | C(=S)=S | CS2
reactant | cyanamide | 14.83 mmol, 623 mg | N#CN | CH2N2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | NEt3 | 4 drops | CCN(CC)CC | C6H15N
product | (5-Isothiocyanato-pentyl)-carbamic Acid tert-Butyl Ester | 2.24 g, 93% | C(C)(C)(C)OC(NCCCCCN=C=S)=O | C11H20N2O2S
